### PR TITLE
Progress table.v

### PR DESCRIPTION
**Pull request by pi8027**
- Lemmas about `lindex` and `rindex` are relocated since I had to use some of them for sequences of extended values.
- Proved `ext_inF` and `lrindex_notin`.

### CODE REVIEW

File: theories/table.v [hunk 1]
```diff
@@ -626,30 +610,35 @@ move=> t; rewrite inE => /andP[ut tu].
...
-(* by apply: contraTF => /mem_rnext->; rewrite ltxx. *)
-Admitted.
+move=> t /andP []; case: (ltngtP i (size s)) => [lt_is|lt_si|->].
+- rewrite -lindex_gt -?rindex_le //= ?ltnS ?size_map ?(ltnW lt_is) //.
+  move=> + ge_i; apply: contra_leqF => ts; move: ge_i.
+  by rewrite lindex_in ?rindex_in ?sorted_map ?mem_map ?map_inj_uniq.
+- by rewrite nth_default //= size_map.
+- move=> + _; apply: contra_ltF => ts.
+  rewrite -lindex_le //= ?ltnS ?size_map //.
+  by rewrite -(size_map Fin) -has_find has_map; apply/hasP; exists t => /=.
```
Comment (CohenCyril) [inline theories/table.v:627]: I have an unpushed commit, does this work?
```suggestion
rewrite -(@lindexE i t); last by rewrite inE t_gt ltW.
by apply: contraTF => /mem_rnext->; rewrite ltxx.
```

File: theories/table.v [hunk 2]
```diff
@@ -626,30 +610,35 @@ move=> t; rewrite inE => /andP[ut tu].
...
+Qed.
 
 Lemma lrindex_notin i :
   {in [pred t | [i] < t%:x < [i.+1]], forall t, t \notin s}.
-Proof. (* by move=> x /lindex_inF->. Qed. *) Admitted.
+Proof. by move=> x /ext_inF ->. Qed.
 
 Lemma lindex_next t tnext : anext t = tnext%:x -> lindex s tnext = lindex s t.
 (* Proof. by move=> sneq; apply: lindexE; rewrite inE -sneq lexx andbT. Qed. *)
```
Comment (CohenCyril) [inline theories/table.v:635]:
```suggestion
Proof. by move=> sneq; apply: lindexE; rewrite inE -sneq lexx andbT. Qed.
```

File: theories/table.v [hunk 3]
```diff
@@ -522,15 +513,10 @@ Lemma eq_in_aprev t : t \in s -> t%:x = aprev t.
...
-rewrite /sprev /= in_cons; case: (lindex _ _) (lindex_size s t) => //= n n_lt.
-by rewrite (nth_map t)// mem_map// mem_nth.
-Qed.
+Proof. by apply: mem_nth; rewrite /= ltnS size_map lindex_size. Qed.
 
 Lemma in_aprev t : aprev t \in -oo :: map Fin s.
-Proof.
-by rewrite aprevE; case: ifPn => [ts|_]; rewrite ?in_sprev// in_cons mem_map.
-Qed.
+Proof. by apply: mem_nth; rewrite /= ltnS size_map rindex_size. Qed.
```
Comment (pi8027) [inline theories/table.v:519]: Remark: `in_aprev` and `in_anext` (below) do not require `s` to be sorted but they accidentally required this assumption (by using `aprevE`?) in the previous version. We should reshuffle sections or declare `Argument` commands to avoid this kind of issue.

File: theories/table.v (hunk 1 above)
Comment (pi8027) [reply theories/table.v:627]: @CohenCyril There is no lemma `lindexE`. Do you mean `lindex_eq`?

Comment (pi8027) [reply theories/table.v:627]: `mem_rnext` is also missing.

Comment (CohenCyril) [reply theories/table.v:627]: I need to check what I had, I think I have 5 different variations son my hard drive, and I need to decide which one of them is actually useful...

Comment (CohenCyril) [reply theories/table.v:627]: I think I waited for the new interval.v to start anew

Comment (CohenCyril) [reply theories/table.v:627]: because in the current state, I need a few variations `snext`, `anext` and stuff, whereas providing an interval bound would explain whether or not we want to include the starting point or not in the search!

Comment (CohenCyril) [reply theories/table.v:627]: There would be a unique `next b` function such that if `b` is `BLeft x` it includes `x` and otherwise not...
I'm  quite excited about that and I wished to continue exploring this direction.

Comment (CohenCyril) [reply theories/table.v:627]: (as soon as mathcomp 1.12 got merged)

Comment (pi8027) [reply theories/table.v:627]: > because in the current state, I need a few variations `snext`, `anext` and stuff, ...

Sure. I see this is confusing and frustrating😂
